US07989461B2
Preparation of 6-methyl-N5-(3-(6-(methylamino)pyrimidin-4-yl)pyridin-2-yl)-N1-(3-(trifluoromethoxy)phenyl)isoquinoline-1,5-diamine
3-(Trifluoromethoxy)aniline (13 μL, 96 μmol), 1-chloro-6-methyl-N-(3-(6-(methylamino)pyrimidin-4-yl)pyridin-2-yl)isoquinolin-5-amine (33 mg, 88 μmol), tris (dibenzylideneacetone)dipalladium (0) (3 mg, 4 μmol), and 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (3 mg, 7 μmol) were added to a microwave tube and suspended in THF-DMF (1:1, 1 mL). The tube was flushed with nitrogen and a solution of lithium bis(trimethylsilyl)amide, 1.0 M in hexanes (385 μL, 385 μmol) was added. The tube was heated in a microwave reactor at 150° C. for 15 min. The reaction mixture was partitioned between DCM and saturated aqueous sodium bicarbonate. The DCM layer was washed with brine, dried over sodium sulfate and concentrated. The residue was purified via preparative TLC on silica (DCM:EtOAc:EtOH:TEA=5:5:10:10) to give the desired product as a yellow solid. MS (M+H)+ 518.

reactant | 3-(Trifluoromethoxy)aniline | 96 μmol, 13 μL | FC(OC=1C=C(N)C=CC1)(F)F | C7H6F3NO
reactant | 1-chloro-6-methyl-N-(3-(6-(methylamino)pyrimidin-4-yl)pyridin-2-yl)isoquinolin-5-amine | 88 μmol, 33 mg | ClC1=NC=CC=2C(=C(C=CC12)C)NC1=NC=CC=C1C1=NC=NC(=C1)NC | C20H17ClN6
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 7 μmol, 3 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF DMF | 1 mL | C1CCOC1.CN(C)C=O
catalyst | tris (dibenzylideneacetone)dipalladium (0) | 4 μmol, 3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-methyl-N5-(3-(6-(methylamino)pyrimidin-4-yl)pyridin-2-yl)-N1-(3-(trifluoromethoxy)phenyl)isoquinoline-1,5-diamine | CC1=C(C=2C=CN=C(C2C=C1)NC1=CC(=CC=C1)OC(F)(F)F)NC1=NC=CC=C1C1=NC=NC(=C1)NC | C27H22F3N7O
